* source ACSWEEP
R_R1         N01364 N01374  10k TC=0,0 
C_C1         0 N01374  5u  TC=0,0 
R_R2         0 N01374  1k TC=0,0 
V_V1         N01364 0 DC 0Vdc AC 1Vac 
