* source RC1
R_R1         N00396 N00406  2k TC=0,0 
C_C1         0 N00406  10uF  TC=0,0 
V_V2         N00396 0  
+PWL 0e-3 0 10e-3 1 100e-3 1 101e-3 0 200e-3 0 210e-3 0 220e-3 0 230e-3 0
+  240e-3 0 250e-3 0 
